US03932471
1-Bromo-3,3-dimethyl-2-butanone oxime (Compound 7666)
A solution of 69.5 g (1.0 m) of hydroxylamine hydrochloride in 100 ml of water is chilled in an ice bath as 90 g (0.5 m) of 1-bromo-3,3-dimethyl-2-butanone is added. After addition of 100 ml of 95% ethanol, the mixture is stirred for 16 hours and allowed to warm to room temperature. The resulting white slurry is filtered, and the solid is washed with water and dried to give 55 g of the desired compound, m. 111°-112° C.

reactant | hydroxylamine hydrochloride | 69.5 g | Cl.NO
reactant | 1-bromo-3,3-dimethyl-2-butanone | 90 g | BrCC(C(C)(C)C)=O | C6H11BrO
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
product | 1-Bromo-3,3-dimethyl-2-butanone oxime | 55 g | BrCC(C(C)(C)C)=NO | C6H12BrNO
